US07214824B2
5 (c): [3–Chloro-4-(trifluoromethyl)phenoxy]acetic acid
tert-Butyl [3-chloro-4-(trifluoromethyl)phenoxy]acetate (1.2 g, 3.8 mmol) was added trifluoroacetic acid (TFA) (3 ml). The mixture was stirred for 5 hours at ambient temperature. The solvent was removed under reduced pressure to give the residue, which was applied to a recrystallization from hexane-methylene dichloride to furnish 251 mg (80% yield) of the title compound as a brown solid.

reactant | tert-Butyl [3-chloro-4-(trifluoromethyl)phenoxy]acetate | 3.8 mmol, 1.2 g | ClC=1C=C(OCC(=O)OC(C)(C)C)C=CC1C(F)(F)F | C13H14ClF3O3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [3–Chloro-4-(trifluoromethyl)phenoxy]acetic acid | 251 mg, 80% yield | ClC=1C=C(OCC(=O)O)C=CC1C(F)(F)F | C9H6ClF3O3
